US08426446B2
Step 1. Synthesis of N-(3-chloro-4-fluorophenyl)-4-methyl-3-nitro benzamide
To a solution of 4-methyl-3-nitrobenzoyl chloride (2.0 g) in dichloromethane (20 ml), a solution of triethylamine (0.7 ml) and 3-chloro-4-fluoroaniline (0.7 g) in dichloromethane (15 ml) was added dropwise in an ice-bath with the temperature no more than 5° C. After addition, the reaction was carried out for 30 min in an ice-bath, and then at room temperature overnight. The completion of reaction was indicated by TLC. Then potassium carbonate solution (10%) was added to precipitate a solid. The mixture was left to stand, and filtered. The filter cake was washed with water, and dried to give a pale yellow powdered solid.

reactant | 4-methyl-3-nitrobenzoyl chloride | 2.0 g | CC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | triethylamine | 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | 3-chloro-4-fluoroaniline | 0.7 g | ClC=1C=C(N)C=CC1F | C6H5ClFN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | N-(3-chloro-4-fluorophenyl)-4-methyl-3-nitro benzamide | ClC=1C=C(C=CC1F)NC(C1=CC(=C(C=C1)C)[N+](=O)[O-])=O | C14H10ClFN2O3
